US06329389B1
Ethyl 3-(2-nitrobenzyl)-2-oxo-3-piperidinecarboxylate
Sodium hydride (60% dispersion in oil, 2.45 g) was added to ethanol (100 ml), to which was added 3-carboethoxy-2-piperidone (10.0 g). The reaction mixture was stirred for 15 minutes, to which was added 2-nitrobenzyl bromide (13.2 g) at room temperature. The reaction mixture was stirred at 60° C. for 3 hours. Water was added to the reaction mixture, which was concentrated. The residue was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crude crystals were recrystallized from ethyl acetate-hexane to give the entitled compound (14.6 g).

reactant | Sodium hydride | 2.45 g | [H-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 3-carboethoxy-2-piperidone | 10.0 g | C(=O)(OCC)C1C(NCCC1)=O | C8H13NO3
reactant | 2-nitrobenzyl bromide | 13.2 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | Water | O | H2O
product | Ethyl 3-(2-nitrobenzyl)-2-oxo-3-piperidinecarboxylate | 14.6 g | [N+](=O)([O-])C1=C(CC2(C(NCCC2)=O)C(=O)OCC)C=CC=C1 | C15H18N2O5
